US05250528
To a solution of 1-acetyl-4-aminopiperazine dihydrochloride (540 mg) in dichloromethane (5 ml) was added dropwise triethylamine (0.8 ml) followed by addition a solution of 4-fluorophenylisocyanate (377 mg) in dichloromethane (2.5 ml) with stirring in an ice bath. After stirring for 100 minutes at the same temperature, a mixture of dichloromethane (15 ml) and methanol (3 ml) was added to the reaction mixture. The mixture was washed with brine, dried, and concentrated in vacuo. The residue was crystallized from ethanol to yield N-(4-acetyl-1-piperazinyl)-N'-(4-fluoroph-enyl)urea (500 mg).

reactant | 1-acetyl-4-aminopiperazine dihydrochloride | 540 mg | Cl.Cl.C(C)(=O)N1CCN(CC1)N
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenylisocyanate | 377 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(4-acetyl-1-piperazinyl)-N'-(4-fluoroph-enyl)urea | 500 mg | C(C)(=O)N1CCN(CC1)NC(=O)NC1=CC=C(C=C1)F | C13H17FN4O2
